US04740602
A solution of 4.18 g of 2-[4-(5-methoxycarbonyl-3-indolyl)butyl]-1,2,3,4-tetrahydrobenzothieno[2,3-c]pyridine in 40 ml of THF is added dropwise to a stirred suspension of 0.57 g of lithium aluminium hydride in 20 ml of THF at 20° under N2. The mixture is stirred at 20° for 1 hour, and decomposition is carried out with dilute sodium hydroxide solution and then with water, and the mixture is filtered, the usual working up is carried out on the filtrate, and 2-[4-(5-hydroxymethyl-3-indolyl)butyl]-1,2,3,4-tetrahydrobenzothieno[2,3-c]pyridine is obtained.

reactant | 2-[4-(5-methoxycarbonyl-3-indolyl)butyl]-1,2,3,4-tetrahydrobenzothieno[2,3-c]pyridine | 4.18 g | COC(=O)C=1C=C2C(=CNC2=CC1)CCCCN1CC2=C(CC1)C1=C(S2)C=CC=C1 | C25H26N2O2S
reactant | lithium aluminium hydride | 0.57 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 2-[4-(5-hydroxymethyl-3-indolyl)butyl]-1,2,3,4-tetrahydrobenzothieno[2,3-c]pyridine | OCC=1C=C2C(=CNC2=CC1)CCCCN1CC2=C(CC1)C1=C(S2)C=CC=C1 | C24H26N2OS
